Name:  ___               Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
HA
 
Major Surgical or Invasive Procedure:
eloped

 
History of Present Illness:
Mr. ___ is a ___ male with the past medical
history noted below who 

___ year old male with chief complaint of HA 

Old records were obtained from ___. They
are  somewhat incomplete, but it seems that the patient was 
given
a  diagnosis of an undifferentiated's psychosis. He was 
initially
tried  on several antipsychotics, but ultimately it seems that 
he
was  discharged on Zyprexa.  
Attempting to determine further PMH/ Medications as none on 
file,
and none that patient endorses

Presents to  the emergency department with 2 days of gradual 
onset of headache in the setting of the use of Zyprexa for an 
undifferentiated psychosis. Pt reported photophobia and
increasing intensity in headache. Also noted some depression sx
such as lack of sleep or appetite. Denies SI/HI.

In the ED
VSS, Neuro exam WNL. Neurovegetative symptoms. No HSM.  He was
given Tylenol.  Labs - significant eosinophilia,  mildly 
elevated
LFTs,  Head CT unremarkable. 
 He does not have any primary care, and he does not seem 
reliable to obtain primary care and follow-up hence admitted
Received 1L LR

___ labs:
WBC 35.4 (14N, 15L, ___, 67E), Hct 34.6 with abnl RBC morphology,
Platelets clumped.
Na 135, K 3.2, Cl 97, CO2 24, BUN 8, Cr 0.94, Glucose 99
ALT 145, AST 158, AP 288, Tbili 0.51, Alb 3.8, TProt 10.1
Tox +amphetamines, barbituates and cannabinoids. 
___ head CT: no acute process

Some noncompliance with Zyprexa 20mg qhs

ROS notes occasional diarrhea, though no flushing, SOB/CP/rash.
Denies fever/chills/weight loss/ nightsweats. 

ROS: Pertinent positives and negatives as noted in the HPI.  All
other systems were reviewed and are negative. 

 
Past Medical History:
Psychosis, Alcohol use dx
 
Social History:
___
Family History:
Reviewed and found to be not relevant to this
illness/reason for hospitalization.
 
Physical Exam:
VITALS: Afebrile and vital signs stable (see eFlowsheet)
GENERAL: Alert and in no apparent distress
EYES: Anicteric, pupils equally round
ENT: Ears and nose without visible erythema, masses, or trauma. 
Oropharynx without visible lesion, erythema or exudate
CV: Heart regular, no murmur, no S3, no S4.  No JVD.
RESP: Lungs clear to auscultation with good air movement
bilaterally.  Breathing is non-labored
GI: Abdomen soft, non-distended, non-tender to palpation.  Bowel
sounds present.  No HSM
GU: No suprapubic fullness or tenderness to palpation
MSK: Neck supple, moves all extremities, strength grossly full
and symmetric bilaterally in all limbs
SKIN: Tatoos over full body. No rashes or ulcerations noted
NEURO: Alert, oriented, face symmetric, gaze conjugate with 
EOMI,
speech fluent, moves all limbs, sensation to light touch grossly
intact throughout
PSYCH: pleasant, appropriate affect
 
Pertinent Results:
___ 05:10AM BLOOD WBC-31.6* RBC-4.01* Hgb-10.2* Hct-32.8* 
MCV-82 MCH-25.4* MCHC-31.1* RDW-19.3* RDWSD-55.6* Plt Ct-84*
___ 05:10AM BLOOD Neuts-20* Lymphs-14* Monos-3* Eos-63* 
Baso-0 AbsNeut-6.32* AbsLymp-4.42* AbsMono-0.95* AbsEos-19.91* 
AbsBaso-0.00*
___ 05:10AM BLOOD Glucose-81 UreaN-9 Creat-1.0 Na-136 K-3.5 
Cl-100 HCO3-22 AnGap-14
___ 05:10AM BLOOD ALT-129* AST-148* LD(LDH)-333* 
AlkPhos-266* TotBili-0.5
___ 04:45AM BLOOD cTropnT-<0.01
___ 04:45AM BLOOD Calcium-8.7 Phos-3.6 Mg-2.0
___ 04:45PM BLOOD ___ 04:45AM BLOOD HBsAg-NEG HBsAb-POS HBcAb-NEG HAV Ab-NEG
___ 04:45PM BLOOD ___
___ 04:45PM BLOOD HIV Ab-NEG
___ 04:45AM BLOOD HCV Ab-NEG

CT CHEST:
IMPRESSION: 
 
Mild bronchial wall inflammation possibly related to either 
smoking or
allergic processes such as asthma.
No intrathoracic lymphadenopathy.

LIVER US: normal
 
Brief Hospital Course:
Mr. ___ is a ___ yo M with h/p psychosis NOS who presented with 
HA and concerns by mother, found to have several abnormalities 
including significant leukocytosis, eosinophilia, 
thrombocytopenia, and hepatitis.

Eosinophilia:
Leukocytosis:
Thrombocytopenia:
Concern for primary hematologic process, leukemia, 
hypereosinophilic syndrome.  Other consideration included 
parasite infection, drug reaction, allergic or vasculitis 
process.  Per mother he has not been on any medication for 
several weeks.  On review of his records from ___, as of 
___ he had a WBC of 15 and an eosinophilia of about 40 
suggesting a chronic progressive process.  Heme consulted.  
Further work up is necessary to properly treat.  CT chest 
performed.  IgE and tryptase performed.  Unfortunately patient 
eloped from the hospital before evaluation could be completed.  
The patient and mother were called and asked to return to the 
hospital in the strongest terms.  Please see note for details.

Psychosis, NOS:
Has been in and out of psych facilities.  Unclear what is true 
dx is.  He had been on zyprexa for some time but not for several 
weeks.  He has no current providers.  At this time he does not 
seem to have decompensated disease and expresses good 
understanding of the conditions and reasons for hospitalization 
above.
- consider psych consult on re-hospitalization
- held zyprexa for now

 
Medications on Admission:
none
 
Discharge Medications:
eloped 
 
Discharge Disposition:
Home
 
Discharge Diagnosis:
eosinophilia
Thrombocytopenia

 
Discharge Condition:
eloped

 
Discharge Instructions:
patient eloped from hospital
 
Followup Instructions:
___